US07534788B2
Step 7: [5-Chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
In a flask were mixed together the above prepared 5-chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid (0.200 g, 0.406 mmol, corrected for purity), 4,4-difluoropiperidine hydrochloride (0.077 g, 1.2 eq.), (benzotriazol-1-yloxy)-tris-(dimethylamino)phosphonium hexafluorophosphate (0.216 g, 1.2 eq.) and 2.4 eq. of N-ethyldiisopropylamine (0.166 mL) in 4 mL of abs. THF and stirred over night at ambient temperature. Pouring onto crashed ice/AcOEt/NH4Cl-solution, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, NEt3/AcOEt=2/98) yielded 0.183 g of the title compound as white solid.

reactant | 5-chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid | 0.406 mmol, 0.200 g | ClC=1C(=CC2=C(C(=C(O2)C(=O)O)C)C1)OC1CCN(CC1)C(C)C | C18H22ClNO4
reactant | 4,4-difluoropiperidine hydrochloride | 0.077 g, 1.2 eq. | Cl.FC1(CCNCC1)F
reactant | (benzotriazol-1-yloxy)-tris-(dimethylamino)phosphonium hexafluorophosphate | 0.216 g, 1.2 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-ethyldiisopropylamine | 0.166 mL, 2.4 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | [5-Chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 0.183 g | ClC=1C(=CC2=C(C(=C(O2)C(=O)N2CCC(CC2)(F)F)C)C1)OC1CCN(CC1)C(C)C | C23H29ClF2N2O3
